US08231858B2
8(b) 4-{[(1-tert-butoxycarbonyl-2-methyl-propyl)-(4-methoxy-benzenesulfonyl)-amino]-methyl}benzoic acid methyl ester (Compound 7*)
To a stirring solution of 2-(4-Methoxy-benzenesulfonylamino)-3-methyl-butyric acid tert-butyl ester (140 mg, 0.41 mmol) in acetonitrile (5 ml) at ambient temperature was added cesium carbonate (1.33 g, 4.10 mmol). Then methyl 4-(bromomethyl)benzoate (115 mg, 0.60 mmol) was added to the suspension and the reaction mixture was stirred at 70° C. for 1 hour by which time TLC (EtOAc/Hexane 1:1) monitoring showed the reaction to be completed. After cooling to ambient temperature, the mixture was filtered to remove excess cesium carbonate and evaporated to dryness. The residue was purified by flash chromatography (EtOAc/Hexane 1:1) to furnish the pure product as slightly yellow oil. Yield 153 mg (76%).

reactant | 2-(4-Methoxy-benzenesulfonylamino)-3-methyl-butyric acid tert-butyl ester | 0.41 mmol, 140 mg | C(C)(C)(C)OC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C16H25NO5S
reactant | cesium carbonate | 4.10 mmol, 1.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 4-(bromomethyl)benzoate | 0.60 mmol, 115 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-{[(1-tert-butoxycarbonyl-2-methyl-propyl)-(4-methoxy-benzenesulfonyl)-amino]-methyl}benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN(S(=O)(=O)C1=CC=C(C=C1)OC)C(C(C)C)C(=O)OC(C)(C)C)=O | C25H33NO7S
